US05463073
23a) methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethylthio-4-methylthieno [3,4-d]imidazole-6-carboxylate
To a solution of methyl 2-ethylthio-4-methylthieno[3,4-d]imidazole-6-carboxylate (5.7 g) in DMF (30 ml) was added sodium hydride (60% oil, 0.98 g) under ice-cooling. After stirring the reaction mixture for 20 minutes, to the mixture was added dropwise a solution of (2'-cyanobiphenyl-4-yl)methyl bromide (7.25 g) in DMF (20 ml), followed by stirring for one hour at room temperature. To the reaction mixture was added water, which was extracted with ethyl acetate. The extract was washed with water and dried, then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography to give crystals. Recrystallization from ethyl acetate - hexane afforded pale yellow prisms (7.6 g, 77%), m.p. 149°-151° C.

reactant | methyl 2-ethylthio-4-methylthieno[3,4-d]imidazole-6-carboxylate | 5.7 g | C(C)SC=1NC=2C(N1)=C(SC2C)C(=O)OC | C10H12N2O2S2
reactant | sodium hydride | 0.98 g | [H-].[Na+]
reactant | (2'-cyanobiphenyl-4-yl)methyl bromide | 7.25 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CBr | C14H10BrN
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethylthio-4-methylthieno [3,4-d]imidazole-6-carboxylate | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC=2C1=C(SC2C)C(=O)OC)SCC | C24H21N3O2S2
